US08110570B2
A mixture of 50 mg (0.23 mmol) of 2-hydroxy-5-(morpholin-4-yl)benzamide, 59 mg (0.30 mmol) of 1-Boc-4-piperidone, and 40 μL of morpholine in 3 mL of MeOH is refluxed for 6 days. Removal of solvent by rotoevaporation and purification by preparative TLC gives 53 mg (0.13 mmol, 57% yield) of 1′-(tert-butyloxycarbonyl)-6-(morpholin-4-yl)spiro[1,3-benzoxazine-2,4′-piperidine]-4(3H)-one which on treatment with 40% TFA in dichloromethane at room temperature for 2 hr. gives the bis-TFA salt of 6-(morpholin-4-yl)spiro[1,3-benzoxazine-2,4′-piperidine]-4(3H)-one in quantitative yield.

reactant | 2-hydroxy-5-(morpholin-4-yl)benzamide | 0.23 mmol, 50 mg | OC1=C(C(=O)N)C=C(C=C1)N1CCOCC1 | C11H14N2O3
reactant | 1-Boc-4-piperidone | 0.30 mmol, 59 mg | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | morpholine | 40 μL | N1CCOCC1 | C4H9NO
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | MeOH | 3 mL | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1′-(tert-butyloxycarbonyl)-6-(morpholin-4-yl)spiro[1,3-benzoxazine-2,4′-piperidine]-4(3H)-one | 0.13 mmol, 53 mg, 57% yield | C(C)(C)(C)OC(=O)N1CCC2(CC1)OC1=C(C(N2)=O)C=C(C=C1)N1CCOCC1 | C21H29N3O5
